US07452892B2
E. Preparation of 8-bromo-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a solution of 7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one (40.5 mg, 0.10 mmol) in dichloroethane (5 mL) at room temperature under argon was added calcium carbonate (10.0 mg, 0.10 mmol) and N,N,N-trimethyl-1-phenylmethanaminium tribromide (39.0 mg, 0.10 mmol). The resulting suspension was stirred and heated at 70° C. under argon for 2 h. Analysis by HPLC/MS indicated that most of the starting material had been consumed. After the reaction mixture was cooled to room temperature, the product was purified by silica gel column chromatography eluted with ethyl acetate-dichloromethane. This provided the title compound (43.6 mg) as a solid. HPLC/MS (methanol-water with 10 mM NH4OAc): retention time=3.67 min, [M+H]+486.

reactant | 7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 0.10 mmol, 40.5 mg | ClC1=CC=C(C=C1)C1=CC=2N(C=N1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C18H11ClF3N5O
reactant | calcium carbonate | 0.10 mmol, 10.0 mg | C([O-])([O-])=O.[Ca+2]
reactant | N,N,N-trimethyl-1-phenylmethanaminium tribromide | 0.10 mmol, 39.0 mg | [Br-].[Br-].[Br-].C[N+](CC1=CC=CC=C1)(C)C.C[N+](CC1=CC=CC=C1)(C)C.C[N+](CC1=CC=CC=C1)(C)C
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 8-bromo-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 43.6 mg | BrC=1C=2N(C=NC1C1=CC=C(C=C1)Cl)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C18H10BrClF3N5O
